* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N034 0 PULSE(0 48 0 10m 4m 200m 5 1)
V§BATT_1 N032 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N030 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 UMBILICAL N029 10000
R2 N029 0 1250
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N053 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N052 N051 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N050 Umbilical_gate_control_logic_output 0 SCHMITT Trise=20u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N029 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N034 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N032 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N030 V=white(2e4*time) / 13
R3 BATT_1 N037 10000
R4 N037 0 4500
R6 BATT_2 N042 10000
R12 N042 0 4500
C7 N044 0 1n
C8 N038 0 4.7µ Rser=1.5m
X§U1 LDO_POWER N038 LDO_POWER N044 N038 0 ADM7170-5.0
C11 BATT_1_comparator 0 100n
R32 N037 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N042 BATT_2_comparator 1000
D4 UMBILICAL LDO_POWER MMSD4148
A12 UMBILICAL OUTPUT_RAIL 0 0 0 0 N008 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A14 BATT_1 OUTPUT_RAIL 0 0 0 0 N016 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A16 BATT_2 OUTPUT_RAIL 0 0 0 0 N020 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
C10 RESET_GATE 0 9n
R36 RESET_GATE N009 5000
R16 N019 N009 1000
A11 N002 0 N004 0 0 0 Deny_Signal 0 DFLOP Vhigh = 5
D5 RESET_GATE N019 D
C15 RESET_CLK 0 17n
R39 RESET_CLK N009 5000
R40 N010 N009 1000
D6 RESET_CLK N010 D
R55 0 OUTPUT_RAIL 10
C1 N041 0 100µ
R7 N009 0 33000
R9 N009 N012 0.001
X§U2 N001 N003 N005 N006 N006 N002 SN74LVC1G08DBVR
X§U3 Umbilical_gate_control_logic_output N001 SN74LVC1G14DBVR
X§U4 BATT_1_gate_control_logic_output N003 SN74LVC1G14DBVR
X§U5 BATT_2_gate_control_signal_logic_output N005 SN74LVC1G14DBVR
X§U7 N002 RESET_CLK NC_20 NC_21 NC_22 N004 SN74LVC1G332DBVR
X§U8 N007 N011 N017 NC_23 NC_24 N012 SN74LVC1G332DBVR
X§U9 Deny_Signal BATT_2_gate_control_signal_logic_output N020 N020 N020 N017 SN74LVC1G08DBVR
X§U10 Deny_Signal BATT_1_gate_control_logic_output N016 N016 N016 N011 SN74LVC1G08DBVR
X§U11 Deny_Signal Umbilical_gate_control_logic_output N008 N008 N008 N007 SN74LVC1G08DBVR
X§U6 RESET_GATE N006 SN74LVC1G14DBVR
X§U12 N050 N052 N053 N053 N053 BATT_2_gate_control_signal_logic_output SN74LVC1G08DBVR
X§U13 N050 N051 N051 N051 N051 BATT_1_gate_control_logic_output SN74LVC1G08DBVR
C13 LOGIC_POWER 0 1µ
C14 LOGIC_POWER 0 1µ
C16 LOGIC_POWER 0 1µ
C17 LOGIC_POWER 0 1µ
C24 LOGIC_POWER 0 1µ
C25 LOGIC_POWER 0 1µ
C26 LOGIC_POWER 0 0.1µ
C27 LOGIC_POWER 0 0.1µ
C28 LOGIC_POWER 0 0.1µ
C29 LOGIC_POWER 0 0.1µ
C30 LOGIC_POWER 0 0.1µ
C31 LOGIC_POWER 0 0.1µ
C3 LOGIC_POWER 0 1µ
C4 LOGIC_POWER 0 1µ
C37 LOGIC_POWER 0 0.1µ
C38 LOGIC_POWER 0 0.1µ
C5 LOGIC_POWER 0 1µ
C6 LOGIC_POWER 0 1µ
C9 LOGIC_POWER 0 1µ
C32 LOGIC_POWER 0 1µ
C39 LOGIC_POWER 0 0.1µ
C40 LOGIC_POWER 0 0.1µ
C41 LOGIC_POWER 0 0.1µ
C42 LOGIC_POWER 0 0.1µ
R13 LOGIC_POWER N038 0.001
D1 BATT_1 LDO_POWER MMSD4148
D2 BATT_2 LDO_POWER MMSD4148
X§U15 LOGIC_POWER N022 0 Umbilical_gate_control_logic_output N023 N015 N021 N014 N018 LTC7001
R11 N022 0 67857
C18 N014 N018 250n
M4 N013 N015 N014 N014 IPA180N10N3
M5 OUTPUT_RAIL N015 N014 N014 IPA180N10N3
D7 LOGIC_POWER N018 RF071MM2S
R19 N015 N021 2000
C20 N024 0 20n
R20 N015 N024 10
X§U14 LOGIC_POWER N033 0 BATT_1_gate_control_logic_output N035 N027 N031 N026 N028 LTC7001
C19 N026 N028 250n
M2 N025 N027 N026 N026 IPA180N10N3
M3 OUTPUT_RAIL N027 N026 N026 IPA180N10N3
D3 LOGIC_POWER N028 RF071MM2S
R15 N027 N031 2000
C21 N036 0 20n
R17 N027 N036 10
X§U16 LOGIC_POWER N047 0 BATT_2_gate_control_signal_logic_output N048 N043 N046 N040 N045 LTC7001
C22 N040 N045 250n
M8 N039 N043 N040 N040 IPA180N10N3
M9 OUTPUT_RAIL N043 N040 N040 IPA180N10N3
D8 LOGIC_POWER N045 RF071MM2S
R23 N043 N046 2000
C23 N049 0 20n
R24 N043 N049 10
D9 0 N014 D
D10 0 N026 D
D11 0 N040 D
R5 N023 Deny_Signal 1000
R10 0 N023 1000
D12 0 N023 UMZ5_1N
R14 N033 0 67857
R18 N035 Deny_Signal 1000
R21 0 N035 1000
D13 0 N035 UMZ5_1N
R22 N047 0 67857
R25 N048 Deny_Signal 1000
R26 0 N048 1000
D14 0 N048 UMZ5_1N
R27 N013 UMBILICAL 0.00001
R28 N025 BATT_1 0.00001
R29 N039 BATT_2 0.00001
C33 LOGIC_POWER 0 1µ
C34 LOGIC_POWER 0 1µ
C35 LOGIC_POWER 0 1µ
C43 LOGIC_POWER 0 0.1µ
C44 LOGIC_POWER 0 0.1µ
C45 LOGIC_POWER 0 0.1µ
C36 N041 0 100n
C46 N041 0 100p
R30 N041 OUTPUT_RAIL 0.00001
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 800m
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
* AND Gate power bypass caps
* OR Gate power bypass caps
* Schmitt inverter power bypass caps
* LTC7001 power bypass caps
.lib ADM7170-5.0.sub
.lib LTC7001.sub
.lib SN74LVC1G08DBVR.sub
.lib SN74LVC1G14DBVR.sub
.lib SN74LVC1G332DBVR.sub
.backanno
.end
