* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N028 0 PULSE(0 48 0 10m 4m 200m 5 1)
V§BATT_1 N026 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N024 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 UMBILICAL N023 100000
R2 N023 0 13000
C2 Umbilical_comparator 0 10n
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N046 Umbilical_gate_control_logic_output 0 SCHMITT Trise=2.5n, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N023 Umbilical_comparator 330
B§UMBILICAL_Noise UMBILICAL N028 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N026 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N024 V=white(2e4*time) / 13
R4 N031 0 33000
C7 N038 0 1n
C8 N032 0 4.7µ Rser=1.5m
X§U1 LDO_POWER N032 LDO_POWER N038 N032 0 ADM7170-5.0
D4 UMBILICAL LDO_POWER MMSD4148
A12 UMBILICAL OUTPUT_RAIL 0 0 0 0 N004 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A14 BATT_1 OUTPUT_RAIL 0 0 0 0 N011 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A16 BATT_2 OUTPUT_RAIL 0 0 0 0 N014 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
C15 RESET_CLK 0 17n
R39 RESET_CLK N007 5000
R55 0 OUTPUT_RAIL 10
C1 N035 0 100µ
R7 N007 0 33000
R9 N007 N006 0.00001
X§U7 N001 RESET_CLK NC_13 NC_14 NC_15 N002 SN74LVC1G332DBVR
X§U8 N003 N005 N012 NC_16 NC_17 N006 SN74LVC1G332DBVR
X§U9 Deny_Signal BATT_2_gate_control_signal_logic_output N014 N014 N014 N012 SN74LVC1G08DBVR
X§U10 Deny_Signal BATT_1_gate_control_logic_output N011 N011 N011 N005 SN74LVC1G08DBVR
X§U11 Deny_Signal Umbilical_gate_control_logic_output N004 N004 N004 N003 SN74LVC1G08DBVR
X§U12 N046 N049 N050 N050 N050 BATT_2_gate_control_signal_logic_output SN74LVC1G08DBVR
X§U13 N046 N047 N047 N047 N047 BATT_1_gate_control_logic_output SN74LVC1G08DBVR
C13 LOGIC_POWER 0 1µ
C14 LOGIC_POWER 0 1µ
C16 LOGIC_POWER 0 1µ
C17 LOGIC_POWER 0 1µ
C24 LOGIC_POWER 0 1µ
C25 LOGIC_POWER 0 1µ
C26 LOGIC_POWER 0 0.1µ
C27 LOGIC_POWER 0 0.1µ
C28 LOGIC_POWER 0 0.1µ
C29 LOGIC_POWER 0 0.1µ
C30 LOGIC_POWER 0 0.1µ
C31 LOGIC_POWER 0 0.1µ
C3 LOGIC_POWER 0 1µ
C4 LOGIC_POWER 0 1µ
C37 LOGIC_POWER 0 0.1µ
C38 LOGIC_POWER 0 0.1µ
C5 LOGIC_POWER 0 1µ
C6 LOGIC_POWER 0 1µ
C9 LOGIC_POWER 0 1µ
C32 LOGIC_POWER 0 1µ
C39 LOGIC_POWER 0 0.1µ
C40 LOGIC_POWER 0 0.1µ
C41 LOGIC_POWER 0 0.1µ
C42 LOGIC_POWER 0 0.1µ
R13 LOGIC_POWER N032 0.001
D1 BATT_1 LDO_POWER MMSD4148
D2 BATT_2 LDO_POWER MMSD4148
X§U15 LOGIC_POWER N016 0 Umbilical_gate_control_logic_output N017 N010 N015 N009 N013 LTC7001
R11 N016 0 67857
C18 N009 N013 250n
M4 N008 N010 N009 N009 IPA180N10N3
M5 OUTPUT_RAIL N010 N009 N009 IPA180N10N3
D7 LOGIC_POWER N013 RF071MM2S
R19 N010 N015 2000
C20 N018 0 20n
R20 N010 N018 10
X§U14 LOGIC_POWER N027 0 BATT_1_gate_control_logic_output N029 N021 N025 N020 N022 LTC7001
C19 N020 N022 250n
M2 N019 N021 N020 N020 IPA180N10N3
M3 OUTPUT_RAIL N021 N020 N020 IPA180N10N3
D3 LOGIC_POWER N022 RF071MM2S
R15 N021 N025 2000
C21 N030 0 20n
R17 N021 N030 10
X§U16 LOGIC_POWER N041 0 BATT_2_gate_control_signal_logic_output N042 N037 N040 N034 N039 LTC7001
C22 N034 N039 250n
M8 N033 N037 N034 N034 IPA180N10N3
M9 OUTPUT_RAIL N037 N034 N034 IPA180N10N3
D8 LOGIC_POWER N039 RF071MM2S
R23 N037 N040 2000
C23 N043 0 20n
R24 N037 N043 10
D9 0 N009 D
D10 0 N020 D
D11 0 N034 D
R5 N017 Deny_Signal 1000
R10 0 N017 1000
D12 0 N017 UMZ5_1N
R14 N027 0 67857
R18 N029 Deny_Signal 1000
R21 0 N029 1000
D13 0 N029 UMZ5_1N
R22 N041 0 67857
R25 N042 Deny_Signal 1000
R26 0 N042 1000
D14 0 N042 UMZ5_1N
R27 N008 UMBILICAL 0.00001
R28 N019 BATT_1 0.00001
R29 N033 BATT_2 0.00001
C33 LOGIC_POWER 0 1µ
C34 LOGIC_POWER 0 1µ
C35 LOGIC_POWER 0 1µ
C43 LOGIC_POWER 0 0.1µ
C44 LOGIC_POWER 0 0.1µ
C45 LOGIC_POWER 0 0.1µ
C36 N035 0 100n
C46 N035 0 100p
R30 N035 OUTPUT_RAIL 0.00001
A3 Umbilical_gate_control_logic_output 0 Umbilical_gate_control_logic_output 0 P001 0 Umbilical_turn_on 0 DFLOP Vhigh = 5, Vt = 2.5
R37 N044 Umbilical_gate_control_logic_output 25000
R38 P002 Umbilical_gate_control_logic_output 220
D16 N044 P002 D
C48 N044 0 230p
R41 Umbilical_gate_control_logic_output 0 66000
A4 N044 0 0 0 0 0 P001 0 SCHMITT Vt =2.5 Vh = 0.5, Vhigh = 5, Trise = 2.5n
A5 BATT_1_gate_control_logic_output 0 BATT_1_gate_control_logic_output 0 P003 0 BATT_1_turn_on 0 DFLOP Vhigh = 5, Vt = 2.5
R42 N045 BATT_1_gate_control_logic_output 25000
R43 P004 BATT_1_gate_control_logic_output 220
D17 N045 P004 D
C49 N045 0 230p
R44 BATT_1_gate_control_logic_output 0 66000
A6 N045 0 0 0 0 0 P003 0 SCHMITT Vt =2.5 Vh = 0.5, Vhigh = 5, Trise = 2.5n
A10 BATT_2_gate_control_signal_logic_output 0 BATT_2_gate_control_signal_logic_output 0 P005 0 BATT_2_turn_on 0 DFLOP Vhigh = 5, Vt = 2.5
R45 N048 BATT_2_gate_control_signal_logic_output 25000
R46 P006 BATT_2_gate_control_signal_logic_output 220
D18 N048 P006 D
C50 N048 0 230p
R47 BATT_2_gate_control_signal_logic_output 0 66000
A13 N048 0 0 0 0 0 P005 0 SCHMITT Vt =2.5 Vh = 0.5, Vhigh = 5, Trise = 2.5n
A1 BATT_1_comparator LOGIC_POWER 0 0 0 N049 N047 0 SCHMITT Trise=2.5n, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
A2 BATT_2_comparator LOGIC_POWER 0 0 0 0 N050 0 SCHMITT Trise=2.5n, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
X§U17 Umbilical_turn_on BATT_1_turn_on BATT_2_turn_on BATT_2_turn_on BATT_2_turn_on N001 SN74LVC1G332DBVR
R3 BATT_1 N031 68000
C11 BATT_1_comparator 0 10n
R31 N031 BATT_1_comparator 330
R32 N036 0 33000
C47 BATT_2_comparator 0 10n
R34 N036 BATT_2_comparator 330
R6 BATT_2 N036 68000
C10 RESET_GATE 0 9n
R12 RESET_GATE N007 5000
A7 N001 0 N002 0 RESET_GATE 0 Deny_Signal 0 DFLOP Vhigh = 5, Vt = 2.5
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 800m
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
* AND Gate power bypass caps
* OR Gate power bypass caps
* Schmitt inverter power bypass caps
* LTC7001 power bypass caps
.lib ADM7170-5.0.sub
.lib LTC7001.sub
.lib SN74LVC1G08DBVR.sub
.lib SN74LVC1G332DBVR.sub
.backanno
.end
