* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N058 0 PULSE(0 48 0 10m 2m 200m 5 1)
V§BATT_1 N059 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N060 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 N042 UMBILICAL 100000
R2 N042 0 12000
C2 Umbilical_priority_comparator 0 10n
R8 N042 Umbilical_priority_comparator 330
B§UMBILICAL_Noise UMBILICAL N058 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N059 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N060 V=white(2e4*time) / 13
C7 N036 0 1n
C8 N034 0 4.7µ Rser=1.5m
X§U1 LDO_POWER N034 LDO_POWER N036 N034 0 ADM7170-5.0
R55 0 N039 10
C1 N040 0 100µ
X§U7 N001 RESET_CLK NC_01 NC_02 NC_03 N002 SN74LVC1G332DBVR
X§U11 Deny_Signal Umbilical_gate_control_logic_output N011 N011 N011 N006 SN74LVC1G08DBVR
C13 LOGIC_POWER 0 1µ
C14 LOGIC_POWER 0 1µ
C16 LOGIC_POWER 0 1µ
C17 LOGIC_POWER 0 1µ
C24 LOGIC_POWER 0 1µ
C25 LOGIC_POWER 0 1µ
C26 LOGIC_POWER 0 0.1µ
C27 LOGIC_POWER 0 0.1µ
C28 LOGIC_POWER 0 0.1µ
C29 LOGIC_POWER 0 0.1µ
C30 LOGIC_POWER 0 0.1µ
C31 LOGIC_POWER 0 0.1µ
C3 LOGIC_POWER 0 1µ
C4 LOGIC_POWER 0 1µ
C37 LOGIC_POWER 0 0.1µ
C38 LOGIC_POWER 0 0.1µ
C5 LOGIC_POWER 0 1µ
C6 LOGIC_POWER 0 1µ
C9 LOGIC_POWER 0 1µ
C32 LOGIC_POWER 0 1µ
C39 LOGIC_POWER 0 0.1µ
C40 LOGIC_POWER 0 0.1µ
C41 LOGIC_POWER 0 0.1µ
C42 LOGIC_POWER 0 0.1µ
R13 LOGIC_POWER N034 0.001
X§U15 LOGIC_POWER N017 0 Umbilical_gate_control_logic_output N020 N005 N015 N004 N009 LTC7001
R11 N017 0 67857
C18 N004 N009 250n
M4 N003 N005 N004 N004 IPA180N10N3
M5 OUTPUT_RAIL N005 N004 N004 IPA180N10N3
D7 LOGIC_POWER N009 RF071MM2S
R19 N005 N015 2000
C20 N021 0 20n
R20 N005 N021 10
X§U14 LOGIC_POWER N032 0 BATT_1_gate_control_logic_output N033 N029 N031 N028 N030 LTC7001
C19 N028 N030 250n
M2 N027 N029 N028 N028 IPA180N10N3
M3 OUTPUT_RAIL N029 N028 N028 IPA180N10N3
D3 LOGIC_POWER N030 RF071MM2S
R15 N029 N031 500
C21 N035 0 20n
R17 N029 N035 10
X§U16 LOGIC_POWER N046 0 BATT_2_gate_control_signal_logic_output N047 N041 N044 N038 N043 LTC7001
C22 N038 N043 250n
M8 N037 N041 N038 N038 IPA180N10N3
M9 OUTPUT_RAIL N041 N038 N038 IPA180N10N3
D8 LOGIC_POWER N043 RF071MM2S
R23 N041 N044 500
C23 N049 0 20n
R24 N041 N049 10
D9 0 N004 D
D10 0 N028 D
D11 0 N038 D
R5 N020 Deny_Signal 1000
R10 0 N020 1000
D12 0 N020 UMZ5_1N
R14 N032 0 67857
R18 N033 Deny_Signal 1000
R21 0 N033 1000
D13 0 N033 UMZ5_1N
R22 N046 0 67857
R25 N047 Deny_Signal 1000
R26 0 N047 1000
D14 0 N047 UMZ5_1N
R27 N003 UMBILICAL 0.00001
R28 N027 BATT_1 0.00001
R29 N037 BATT_2 0.00001
C33 LOGIC_POWER 0 1µ
C34 LOGIC_POWER 0 1µ
C35 LOGIC_POWER 0 1µ
C43 LOGIC_POWER 0 0.1µ
C44 LOGIC_POWER 0 0.1µ
C45 LOGIC_POWER 0 0.1µ
C36 N040 0 100n
C46 N040 0 100p
R30 N040 N039 0.00001
X§U17 Umbilical_turn_on BATT_1_turn_on BATT_2_turn_on BATT_2_turn_on BATT_2_turn_on N001 SN74LVC1G332DBVR
X§U2 5V N001 N002 RESET_GATE Deny_Signal NC_04 SN74LVC2G74DCUR
X§U4 5V Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output N055 Umbilical_turn_on NC_05 SN74LVC2G74DCUR
C12 N054 0 230p
R16 N054 Umbilical_gate_control_logic_output 25000
R33 Umbilical_gate_control_logic_output 0 66000
X§U6 5V BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output N057 BATT_1_turn_on NC_06 SN74LVC2G74DCUR
C48 N056 0 230p
R35 N056 BATT_1_gate_control_logic_output 25000
R36 BATT_1_gate_control_logic_output 0 66000
X§U19 5V BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output N062 BATT_2_turn_on NC_07 SN74LVC2G74DCUR
C49 N061 0 230p
R37 N061 BATT_2_gate_control_signal_logic_output 25000
R38 BATT_2_gate_control_signal_logic_output 0 66000
X§U21 N061 N062 SN74LVC1G14DBVR
X§U22 N056 N057 SN74LVC1G14DBVR
V2 5V 0 5
X§U5 N054 N055 SN74LVC1G14DBVR
X§U18 Umbilical_priority_comparator LOGIC_POWER LOGIC_POWER Umbilical_gate_control_logic_output TLV1851DBVR
X§U20 BATT_1_priority_comparator LOGIC_POWER LOGIC_POWER N051 TLV1851DBVR
X§U23 BATT_2_priority_comparator LOGIC_POWER LOGIC_POWER N053 TLV1851DBVR
X§U24 N050 N051 N051 N051 N051 BATT_1_gate_control_logic_output SN74LVC1G08DBVR
X§U25 N050 N052 N053 N053 N053 BATT_2_gate_control_signal_logic_output SN74LVC1G08DBVR
X§U26 Umbilical_gate_control_logic_output N050 SN74LVC1G14DBVR
X§U27 N051 N052 SN74LVC1G14DBVR
X§U12 N014 OUTPUT_RAIL_comparator LOGIC_POWER N011 TLV1851DBVR
X§U13 Deny_Signal BATT_1_gate_control_logic_output N019 N019 N019 N010 SN74LVC1G08DBVR
X§U28 N023 OUTPUT_RAIL_comparator LOGIC_POWER N019 TLV1851DBVR
X§U29 Deny_Signal BATT_2_gate_control_signal_logic_output N024 N024 N024 N012 SN74LVC1G08DBVR
X§U30 N026 OUTPUT_RAIL_comparator LOGIC_POWER N024 TLV1851DBVR
C50 RESET_CLK 0 17n
R40 RESET_CLK N008 5000
R41 N008 0 33000
R42 N008 N007 0.00001
X§U31 N006 N010 N012 NC_08 NC_09 N007 SN74LVC1G332DBVR
C51 N016 0 6n
R43 N016 N008 5000
X§U32 N016 RESET_GATE SN74LVC1G14DBVR
D5 BATT_2 LDO_POWER MMSD4148
D6 BATT_1 LDO_POWER MMSD4148
D15 UMBILICAL LDO_POWER MMSD4148
R7 N045 0 30000
R9 BATT_1 N045 68000
C10 BATT_1_priority_comparator 0 10n
R12 N045 BATT_1_priority_comparator 330
R39 N048 0 30000
R44 BATT_2 N048 68000
C15 BATT_2_priority_comparator 0 10n
R45 N048 BATT_2_priority_comparator 330
R3 UMBILICAL N013 68000
R4 N013 0 68000
R46 OUTPUT_RAIL N018 68000
R47 N018 0 68000
C11 N014 0 1n
R48 N013 N014 330
R6 BATT_1 N022 68000
R31 N022 0 68000
C47 N023 0 1n
R32 N022 N023 330
R34 BATT_2 N025 68000
R49 N025 0 68000
C52 N026 0 1n
R50 N025 N026 330
C53 OUTPUT_RAIL_comparator 0 1n
R51 N018 OUTPUT_RAIL_comparator 330
R52 N039 OUTPUT_RAIL 0.00001
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 800m
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
* AND Gate power bypass caps
* OR Gate power bypass caps
* Schmitt inverter power bypass caps
* LTC7001 power bypass caps
.lib ADM7170-5.0.sub
.lib LTC7001.sub
.lib SN74LVC1G08DBVR.sub
.lib SN74LVC1G14DBVR.sub
.lib SN74LVC1G332DBVR.sub
.lib SN74LVC2G74DCUR.sub
.lib TLV1851DBVR.sub
.backanno
.end
