* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N057 0 PULSE(0 48 0 10m 2m 200m 5 1)
V§BATT_1 N058 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N059 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 N041 UMBILICAL 100000
R2 N041 0 12000
C2 Umbilical_priority_comparator 0 10n
R8 N041 Umbilical_priority_comparator 330
B§UMBILICAL_Noise UMBILICAL N057 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N058 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N059 V=white(2e4*time) / 13
C7 N035 0 1n
C8 N033 0 4.7µ Rser=1.5m
X§U1 LDO_POWER N033 LDO_POWER N035 N033 0 ADM7170-5.0
R55 0 N038 10
C1 N039 0 100µ
X§U11 Deny_Signal Umbilical_gate_control_logic_output N011 N011 N011 N005 SN74LVC1G08DBVR
C13 LOGIC_POWER 0 1µ
C14 LOGIC_POWER 0 1µ
C16 LOGIC_POWER 0 1µ
C17 LOGIC_POWER 0 1µ
C24 LOGIC_POWER 0 1µ
C25 LOGIC_POWER 0 1µ
C26 LOGIC_POWER 0 0.1µ
C27 LOGIC_POWER 0 0.1µ
C28 LOGIC_POWER 0 0.1µ
C29 LOGIC_POWER 0 0.1µ
C30 LOGIC_POWER 0 0.1µ
C31 LOGIC_POWER 0 0.1µ
C3 LOGIC_POWER 0 1µ
C4 LOGIC_POWER 0 1µ
C37 LOGIC_POWER 0 0.1µ
C38 LOGIC_POWER 0 0.1µ
C5 LOGIC_POWER 0 1µ
C6 LOGIC_POWER 0 1µ
C9 LOGIC_POWER 0 1µ
C32 LOGIC_POWER 0 1µ
C39 LOGIC_POWER 0 0.1µ
C40 LOGIC_POWER 0 0.1µ
C41 LOGIC_POWER 0 0.1µ
C42 LOGIC_POWER 0 0.1µ
R13 LOGIC_POWER N033 0.001
X§U15 LOGIC_POWER N016 0 Umbilical_gate_control_logic_output N019 N004 N015 N003 N009 LTC7001
R11 N016 0 67857
C18 N003 N009 250n
M4 N002 N004 N003 N003 IPA180N10N3
M5 OUTPUT_RAIL N004 N003 N003 IPA180N10N3
D7 LOGIC_POWER N009 RF071MM2S
R19 N004 N015 2000
C20 N020 0 20n
R20 N004 N020 10
X§U14 LOGIC_POWER N031 0 BATT_1_gate_control_logic_output N032 N028 N030 N027 N029 LTC7001
C19 N027 N029 250n
M2 N026 N028 N027 N027 IPA180N10N3
M3 OUTPUT_RAIL N028 N027 N027 IPA180N10N3
D3 LOGIC_POWER N029 RF071MM2S
R15 N028 N030 500
C21 N034 0 20n
R17 N028 N034 10
X§U16 LOGIC_POWER N045 0 BATT_2_gate_control_signal_logic_output N046 N040 N043 N037 N042 LTC7001
C22 N037 N042 250n
M8 N036 N040 N037 N037 IPA180N10N3
M9 OUTPUT_RAIL N040 N037 N037 IPA180N10N3
D8 LOGIC_POWER N042 RF071MM2S
R23 N040 N043 500
C23 N048 0 20n
R24 N040 N048 10
D9 0 N003 D
D10 0 N027 D
D11 0 N037 D
R5 N019 Deny_Signal 1000
R10 0 N019 1000
D12 0 N019 UMZ5_1N
R14 N031 0 67857
R18 N032 Deny_Signal 1000
R21 0 N032 1000
D13 0 N032 UMZ5_1N
R22 N045 0 67857
R25 N046 Deny_Signal 1000
R26 0 N046 1000
D14 0 N046 UMZ5_1N
R27 N002 UMBILICAL 0.00001
R28 N026 BATT_1 0.00001
R29 N036 BATT_2 0.00001
C33 LOGIC_POWER 0 1µ
C34 LOGIC_POWER 0 1µ
C35 LOGIC_POWER 0 1µ
C43 LOGIC_POWER 0 0.1µ
C44 LOGIC_POWER 0 0.1µ
C45 LOGIC_POWER 0 0.1µ
C36 N039 0 100n
C46 N039 0 100p
R30 N039 N038 0.00001
X§U17 Umbilical_turn_on BATT_1_turn_on BATT_2_turn_on BATT_2_turn_on BATT_2_turn_on N001 SN74LVC1G332DBVR
X§U2 5V N001 N001 RESET_GATE Deny_Signal NC_01 SN74LVC2G74DCUR
X§U4 5V Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output N054 Umbilical_turn_on NC_02 SN74LVC2G74DCUR
C12 N053 0 230p
R16 N053 Umbilical_gate_control_logic_output 25000
R33 Umbilical_gate_control_logic_output 0 66000
X§U6 5V BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output N056 BATT_1_turn_on NC_03 SN74LVC2G74DCUR
C48 N055 0 230p
R35 N055 BATT_1_gate_control_logic_output 25000
R36 BATT_1_gate_control_logic_output 0 66000
X§U19 5V BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output N061 BATT_2_turn_on NC_04 SN74LVC2G74DCUR
C49 N060 0 230p
R37 N060 BATT_2_gate_control_signal_logic_output 25000
R38 BATT_2_gate_control_signal_logic_output 0 66000
X§U21 N060 N061 SN74LVC1G14DBVR
X§U22 N055 N056 SN74LVC1G14DBVR
V2 5V 0 5
X§U5 N053 N054 SN74LVC1G14DBVR
X§U18 Umbilical_priority_comparator LOGIC_POWER LOGIC_POWER Umbilical_gate_control_logic_output TLV1851DBVR
X§U20 BATT_1_priority_comparator LOGIC_POWER LOGIC_POWER N050 TLV1851DBVR
X§U23 BATT_2_priority_comparator LOGIC_POWER LOGIC_POWER N052 TLV1851DBVR
X§U24 N049 N050 N050 N050 N050 BATT_1_gate_control_logic_output SN74LVC1G08DBVR
X§U25 N049 N051 N052 N052 N052 BATT_2_gate_control_signal_logic_output SN74LVC1G08DBVR
X§U26 Umbilical_gate_control_logic_output N049 SN74LVC1G14DBVR
X§U27 N050 N051 SN74LVC1G14DBVR
X§U12 N014 OUTPUT_RAIL_comparator LOGIC_POWER N011 TLV1851DBVR
X§U13 Deny_Signal BATT_1_gate_control_logic_output N018 N018 N018 N010 SN74LVC1G08DBVR
X§U28 N022 OUTPUT_RAIL_comparator LOGIC_POWER N018 TLV1851DBVR
X§U29 Deny_Signal BATT_2_gate_control_signal_logic_output N023 N023 N023 N012 SN74LVC1G08DBVR
X§U30 N025 OUTPUT_RAIL_comparator LOGIC_POWER N023 TLV1851DBVR
R41 N007 0 33000
R42 N007 N006 0.00001
X§U31 N005 N010 N012 NC_05 NC_06 N006 SN74LVC1G332DBVR
C51 N008 0 6n
R43 N008 N007 5000
X§U32 N008 RESET_GATE SN74LVC1G14DBVR
D5 BATT_2 LDO_POWER MMSD4148
D6 BATT_1 LDO_POWER MMSD4148
D15 UMBILICAL LDO_POWER MMSD4148
R7 N044 0 30000
R9 BATT_1 N044 68000
C10 BATT_1_priority_comparator 0 10n
R12 N044 BATT_1_priority_comparator 330
R44 BATT_2 N047 68000
C15 BATT_2_priority_comparator 0 10n
R45 N047 BATT_2_priority_comparator 330
R3 UMBILICAL N013 68000
R4 N013 0 68000
R46 OUTPUT_RAIL N017 68000
R47 N017 0 68000
C11 N014 0 1n
R48 N013 N014 330
R6 BATT_1 N021 68000
R31 N021 0 68000
C47 N022 0 1n
R32 N021 N022 330
R34 BATT_2 N024 68000
R49 N024 0 68000
C52 N025 0 1n
R50 N024 N025 330
C53 OUTPUT_RAIL_comparator 0 1n
R51 N017 OUTPUT_RAIL_comparator 330
R52 N038 OUTPUT_RAIL 0.00001
R39 N047 0 30000
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 640m
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
* AND Gate power bypass caps
* OR Gate power bypass caps
* Schmitt inverter power bypass caps
* LTC7001 power bypass caps
.lib ADM7170-5.0.sub
.lib LTC7001.sub
.lib SN74LVC1G08DBVR.sub
.lib SN74LVC1G14DBVR.sub
.lib SN74LVC1G332DBVR.sub
.lib SN74LVC2G74DCUR.sub
.lib TLV1851DBVR.sub
.backanno
.end
